Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
jerking
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with history of depression, anxiety, etoh abuse who 
presents for evaluation of jerking.
Patient was doing well today, eating a meal with her family at 
___ in ___. She suddenly sensed the inability to take 
a deep breath and then parts of her body started moving 
uncontrollably. She came to the ED for evaluation. She had no 
preceding symptoms including diaphoresis, chest pain, nausea. 
She does have chronic light-headedness. Also states she was a 
little anxious.
In the ED, initial vitals were: 98.0 124 143/74 20 97% RA
Labs notable for:
Normal CBC, chem7
UA with sm leuk
Imaging notable for:
CT Head ___. No acute intracranial abnormality.
2. Please note that MRI is more sensitive for the evaluation of 
masses than CT.
Patient was given:
___ 18:27 IVF 1000 mL NS 1000 mL ___
___ 18:27 IV Lorazepam 1 mg ___
___ 20:01 IV DiphenhydrAMINE 25 mg ___
___ 00:37 IVF 1000 mL NS 1000 mL ___
Neurology was consulted and recommended:
She should be evaluated for toxic-metabolic causes of secondary 
myoclonus. The room jerking does not sound like oscillopsia, but 
the patient had difficulty describing it and it was complicated 
by the fact that her head and torso were jerking at the same 
time. The movements (although mostly resolved by the time of 
evaluation) did not resemble dystonia. Seizures less likely. 
Anxiety is a diagnosis of exclusion.
-Would recommend LFTs, NH3, utox, stox, and CXR for 
toxic-metabolic work-up
-No EEG or MRI at this time
-No LP at this time given that she is not toxic-appearing
-Agree with medicine admission; we will follow on consult 
service
Vitals prior to transfer: 74 ___ 98%
On the floor, patient endorses some light-headedness but is 
otherwise feeling well. This has never happened before. No aura. 
She says the jerking lasted for hours before finally subsiding, 
unsure what made it better. Denies LOC.
 
Past Medical History:
GASTRITIS
COLONIC POLYPS
DEPRESSION
ANXIETY
ALCOHOL ABUSE
CONSTIPATION
LIGHTHEADEDNESS
MIGRAINES WITH AURA--STARS, WAVINESS IN EYESIGHT
 
Social History:
___
Family History:
Mom- bladder cancer
Dad- ?CLL
 
Physical ___:
ADMISSION PHYSICAL EXAM
==========================
Vital Signs: 98.0 124/70 74 18 100RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation

DISCHARGE PHYSICAL EXAM
============================
VITALS:  Tc 98.3, BP 95-110/56-62, HR 62-65, RR 18, 98-100% RA.
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: Supple, JVP not elevated, no LAD  
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: +BS, soft, nondistended, nontender to palpation. No 
hepatomegaly.  
GU: no foley  
EXT: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNs2-12 intact, strength is ___ in lower extremities, 
sensation intact in the lower extremities
 
Pertinent Results:
ADMISSION LABS
================
___ 06:30PM BLOOD WBC-4.1 RBC-3.54* Hgb-11.4 Hct-33.9* 
MCV-96 MCH-32.2* MCHC-33.6 RDW-12.4 RDWSD-43.8 Plt ___
___ 06:30PM BLOOD Neuts-57.1 ___ Monos-10.1 Eos-2.5 
Baso-0.5 AbsNeut-2.32 AbsLymp-1.21 AbsMono-0.41 AbsEos-0.10 
AbsBaso-0.02
___ 06:30PM BLOOD Glucose-127* UreaN-27* Creat-1.0 Na-137 
K-4.0 Cl-103 HCO3-22 AnGap-16
___ 06:30PM BLOOD ALT-14 AST-19 AlkPhos-59 TotBili-0.2
___ 06:30PM BLOOD Albumin-4.1
___ 06:30PM BLOOD TSH-1.6
___ 06:30PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 06:48PM BLOOD LYME DISEASE ANTIBODY, IMMUNOBLOT-PND
___ 12:45AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:45AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-SM 
___ 12:45AM URINE RBC-1 WBC-4 Bacteri-NONE Yeast-NONE Epi-1
___ 12:45AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG marijua-PND

MICROBIOLOGY
================
___ 6:48 pm Blood (LYME)
   Lyme IgG (Preliminary): 
      Sent to ___ for Lyme Western Blot testing. 
   Lyme IgM (Preliminary): 
      Sent to ___ for Lyme Western Blot testing. 

___ 12:45 am URINE     Site: NOT SPECIFIED
   URINE CULTURE (Pending): 

IMAGING
=========
___ CT Head
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Please note that MRI is more sensitive for the evaluation of 
masses than CT. 

___ CT Head
IMPRESSION: Normal chest radiograph without evidence of 
pneumonia.

DISCHARGE LABS
===============
___ 06:00AM BLOOD WBC-5.9 RBC-3.27* Hgb-10.9* Hct-36.2 
MCV-111*# MCH-33.3* MCHC-30.1*# RDW-13.0 RDWSD-53.0* Plt ___
___ 06:00AM BLOOD ___ PTT-25.1 ___
___ 06:00AM BLOOD Glucose-96 UreaN-21* Creat-0.7 Na-138 
K-4.0 Cl-108 HCO3-19* AnGap-15
___ 06:00AM BLOOD ALT-12 AST-18 LD(LDH)-257* AlkPhos-54 
TotBili-0.3
___ 06:00AM BLOOD Albumin-3.8 Calcium-8.3* Phos-3.1 Mg-2.0
___:00AM BLOOD Ammonia-___ with history of anxiety, migraines with aura and depression 
who presented with acute onset shortness of breath, myoclonus 
and vague ocular symptoms. She underwent head CT which ruled out 
intracranial hemorrhage. CXR was negative. Labwork (CBC, Chem 
10, LFTs, TSH, initial tox screen) was grossly normal, except 
for bicarbonate of 21, which could have been secondary to 
respiratory alkalosis from hyperventilation. She was seen by 
Neurology was felt that both seizure and medication effect (from 
wellbutrin) were very unlikely given no history of seizures and 
because she has been on wellbutrin for many years without issue. 
Her myoclonus and ocular symptoms resolved during this 
admission. She was able to ambulate without issue. Patient was 
instructed to only take AM wellbutrin dose until she sees her 
PCP. On further questioning, she relayed history of possible 
ingestion of an unknown substance as a part of baked goods 
consumed in her daughter's apartment, which occurred 40 minutes 
prior to the onset of her symptoms. For this reason, cannabis 
testing was sent; these results were pending at discharge, but 
later returned positive for cannabis. This results was relayed 
to her at follow-up PCP ___.

#Myoclonus: exam c/w myoclonus per neurology. Primary myoclonus 
unlikely due to age. Underwent work-up for secondary causes, 
such as infection, which was unrevealing. This was likely 
secondary to hyperventilation leading to myoclonus. 

#Anxiety: held morning dose of bupropion in case of med side 
effect; will restart on discharge at lower dose (once daily) and 
recommend close PCP ___. 

#HTN: irbesartan was held as it was not formulary. Patient was 
normotensive and did not require anti-hypertensive.

TRANSITIONAL ISSUES:
- follow-up pending: Lyme serologies, cannabis level, urine 
culture
- consider titration or augmentation of anti-anxiety therapy 
- only taking AM wellbutrin dose for now until seeing PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. irbesartan 300 mg oral DAILY 
3. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 150 mg PO QAM  
2.  irbesartan 300 mg oral DAILY  
3.  Polyethylene Glycol 17 g PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: myoclonus
Secondary diagnosis: anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your recent 
hospitalization at ___. You were admitted for symptoms of 
uncontrollable body twitches, that were initially concerning for 
a seizure. You had a head CT that was normal. You were seen by 
Neurology who did not feel a seizure was likely. There was 
consideration that perhaps some of this was caused by 
wellbutrin, but since you have been on this medication for so 
long, this was felt to be unlikely. In fact, Neurology felt that 
a possible etiology was due to a panic attack from anxiety 
causing rapid breathing that led to your symptoms. We would 
suggest following up with your PCP closely so that they can 
monitor your anxiety, especially if this contributed to your 
presentation today.

You should continue wellbutrin. We recommend taking only your AM 
dose for the next few days and watching to see if your symptoms 
recur.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___